US04058550
A solution of 2.00 g of 4-(n-hexadecylamino)benzoic acid in 80 ml of methylene chloride is stirred at 35° C and treated with anhydrous hydrogen chloride. The resulting mixture is chilled and filtered to yield 4-(n-hexadecylamino)benzoic acid hydrochloride as a white solid.

reactant | 4-(n-hexadecylamino)benzoic acid | 2.00 g | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)O)C=C1 | C23H39NO2
reactant | hydrogen chloride | Cl | ClH
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | 4-(n-hexadecylamino)benzoic acid hydrochloride | Cl.C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)O)C=C1 | InChI=1S/C23H39NO2.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-20-24-22-18-16-21(17-19-22)23(25)26;/h16-19,24H,2-15,20H2,1H3,(H,25,26);1H
